US07238808B2
Step 1) 5-Trimethylsilanylethynyl-pyridin-2-ylamine
A mixture of commercially available 2-amino-5-bromopyridine (50.0 g, 289 mmol), trimethylsilylacetylene (112 mL, 809 mmol), Et3N (120 mL, 867 mmol), PdCl2(PPh3)2 (4.06 g, 2 mol %) and PPh3 (1.52 g, 2 mol %) in DMF (290 mL) was purged for 10 min with argon. Then CuI (340 mg, 1 mol %) was added and the reaction mixture was heated up to 90° C., stirring was continued at 90° C. for 4.5 h. Cooled to 23° C., the reaction mixture was concentrated in vacuum to remove all volatiles, poured the residue onto water (300 mL) and extracted with ethyl acetate (3×500 mL). The combined organic layers were washed with water (300 mL) and brine (2×250 mL), dried over MgSO4. Removal of the solvent in vacuum left a dark brown residue which was purified by flash chromatography with n-heptane and acetone to give the title compound as a brown solid (41.65 g, 76%). MS (ISP) 191 [(M+H)+].

reactant | 2-amino-5-bromopyridine | 289 mmol, 50.0 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | trimethylsilylacetylene | 809 mmol, 112 mL | C[Si](C)(C)C#C | C5H10Si
reactant | Et3N | 867 mmol, 120 mL | CCN(CC)CC | C6H15N
solvent | DMF | 290 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 4.06 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | PPh3 | 1.52 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 5-Trimethylsilanylethynyl-pyridin-2-ylamine | 41.65 g, 76% | C[Si](C)(C)C#CC=1C=CC(=NC1)N | C10H14N2Si
